US07576135B2
2-(4-chloro-3-nitroanilino)-2-oxoacetic acid
In a manner similar to that described in Referential Example 242, 4-chloro-3-nitroaniline was condensed with methyl chlorooxoacetate. In a manner similar to that described in Referential Example 359, the condensed compound was hydrolyzed, whereby the title compound was obtained.

reactant | 4-chloro-3-nitroaniline | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(4-chloro-3-nitroanilino)-2-oxoacetic acid | ClC1=C(C=C(NC(C(=O)O)=O)C=C1)[N+](=O)[O-] | C8H5ClN2O5
